US08580794B2
tert-butyl 4-(tetrahydro-2H-pyran-4-yl)piperazine-1-carboxylate
The title compound was prepared by substituting tert-butyl piperazine-1-carboxylate for morpholine and dihydro-2H-pyran-4(3H)-one for tert-butyl 4-oxocyclohexylcarbamate in EXAMPLE 39A.

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | dihydro-2H-pyran-4(3H)-one | O1CCC(CC1)=O | C5H8O2
reactant | tert-butyl 4-oxocyclohexylcarbamate | O=C1CCC(CC1)NC(OC(C)(C)C)=O | C11H19NO3
product | tert-butyl 4-(tetrahydro-2H-pyran-4-yl)piperazine-1-carboxylate | O1CCC(CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H26N2O3
